US06337344B1
[4-({[1-(3-Amidino-benzyl)-4-bromo-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium acetate acetic acid salt
This compound was prepared from [4-({[4-bromo-1-(3-cyano-benzyl)-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium iodide (200 mg, 0.32 mmol), ethanol (13 ml), hydrogen chloride, and liquid ammonia analogously to example 19/3. Purification by reversed phase chromatography on RP18 material with water/ethanol/trifluoroacetic acid 1:1:0.1 gave 249 mg of the desired product as trifluoroacetic acid salt. This compound was converted into the acetic acid salt by ion exchanger chromatography analogously to example 64. Yield: 150 mg (74%). M.p. 145° C. (dec.). MS: 518.2 (M+; 79Br).

reactant | [4-({[4-bromo-1-(3-cyano-benzyl)-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium iodide | 0.32 mmol, 200 mg | [I-].BrC1=C2C=C(N(C2=CC=C1)CC1=CC(=CC=C1)C#N)C(=O)NCC1=CC=C(C=C1)[N+](C)(C)C
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
reactant | ethanol | 13 ml | C(C)O | C2H6O
product | [4-({[1-(3-Amidino-benzyl)-4-bromo-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium acetate acetic acid salt | 249 mg | C(C)(=O)O.C(C)(=O)[O-].C(N)(=N)C=1C=C(CN2C(=CC3=C(C=CC=C23)Br)C(=O)NCC2=CC=C(C=C2)[N+](C)(C)C)C=CC1 | InChI=1S/C27H28BrN5O.2C2H4O2/c1-33(2,3)21-12-10-18(11-13-21)16-31-27(34)25-15-22-23(28)8-5-9-24(22)32(25)17-19-6-4-7-20(14-19)26(29)30;2*1-2(3)4/h4-15H,16-17H2,1-3H3,(H3-,29,30,31,34);2*1H3,(H,3,4)
